US04254260
To a solution of ethyl 2-aminothiazol-4-ylacetate (1.86 g.) in dried ethyl acetate (37 ml.) was dropwise added trichloromethylisocyanate (1.6 g.) with stirring under ice-cooling. The mixture was stirred for 2 hours at room temperature, and trichloromethylisocyanate (0.32 g.) was further added thereto, and then the mixture was further stirred for 1 hour at room temperature. After the reaction, the reaction mixture was filtered. The filtrate was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate, and then the solvent was distilled off therefrom. The residue was pulverized in diethyl ether to give colorless crystals of ethyl 2-(3-trichloromethylureido)thiazol-4-ylacetate (1.72 g.).

reactant | ethyl 2-aminothiazol-4-ylacetate | 1.86 g | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | trichloromethylisocyanate | 1.6 g | ClC(Cl)(Cl)N=C=O | C2Cl3NO
reactant | trichloromethylisocyanate | 0.32 g | ClC(Cl)(Cl)N=C=O | C2Cl3NO
solvent | ethyl acetate | 37 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(3-trichloromethylureido)thiazol-4-ylacetate | 1.72 g | ClC(NC(NC=1SC=C(N1)CC(=O)OCC)=O)(Cl)Cl | C9H10Cl3N3O3S
